US05459161
Methyl 4-acetamido-5-chloro-2-phenyl-benzo[b]furan-7-carboxylate
Methyl 3-iodo-4-acetamido-5-chloro-salicylate was reacted with phenylacetylene in analogy to what described in Example 1, Method A and B, except that no SiO2 was added. After column chromatography the title product was obtained.

reactant | Methyl 3-iodo-4-acetamido-5-chloro-salicylate | IC1=C(C(C(=O)OC)=CC(=C1NC(C)=O)Cl)O | C10H9ClINO4
reactant | phenylacetylene | C1(=CC=CC=C1)C#C | C8H6
product | Methyl 4-acetamido-5-chloro-2-phenyl-benzo[b]furan-7-carboxylate | C(C)(=O)NC1=C(C=C(C=2OC(=CC21)C2=CC=CC=C2)C(=O)OC)Cl | C18H14ClNO4
